US04563464
7-Chloro-7-cyano-2-azabicyclo[2.2.2]oct-5-ene hydrogen bromide
5.0 g. (0.0165 moles) of N-benzyloxycarbonyl-7-chloro-7-cyano-2-azabicyclo[2.2.2]oct-5-ene are dissolved in a mixture of 30 ml. of glacial acetic acid and 15 ml. of a 4-5N glacial acetic acid/hydrogen bromide mixture. The reaction mixture is allowed to stand at room temperature for 10 minutes, and is then evaporated. The evaporation residue is crystallized from acetone.

reactant | N-benzyloxycarbonyl-7-chloro-7-cyano-2-azabicyclo[2.2.2]oct-5-ene | 0.0165 moles | C(C1=CC=CC=C1)OC(=O)N1C2C=CC(C1)CC2(C#N)Cl | C16H15ClN2O2
reactant | acetic acid hydrogen bromide | 4-5N | C(C)(=O)O.Br
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Chloro-7-cyano-2-azabicyclo[2.2.2]oct-5-ene hydrogen bromide | Br.ClC1(C2NCC(C=C2)C1)C#N | InChI=1S/C8H9ClN2.BrH/c9-8(5-10)3-6-1-2-7(8)11-4-6;/h1-2,6-7,11H,3-4H2;1H
